US04602014
Pyrrolidine (25 ml) is slowly added dropwise to a stirred suspension of 28.63 g of N-methoxycarbonyl-3-oxo-tetrahydropyrrole [prepared according to J Med Chem 5, 752 (1962)] and 29.5 g of anhydrous potassium carbonate in 200 ml ether and 100 ml toluene at 0°-5° under a nitrogen atmosphere. After 3 hours the suspension is filtered and the filtrate evaporated under reduced pressure to yield 3-pyrrolidino-N-methoxycarbonyl-2,5-dihydropyrrole as an oil. NMR (CDCl3): 4.12 (s), 4.01 (m), 3.63 (s), 3.00 (m), and 1.85 (m). Triethylamine (28 ml) and 2,4 g of 4-dimethylaminopyridine are added to a solution of 39.3 g (0.2 moles) of 3-pyrrolidino-N-methoxycarbonyl-2,5-dihydropyrrole in 850 ml of dry ether. The reaction mixture is cooled in an ice bath. A solution of 25.6 ml of ethyl malonyl chloride in 850 ml ether is added dropwise keeping the internal temperature below 5°. After 1 hour at 5° and 2 hours at room temperature, the suspension is filtered, the ether solution is washed with 10% ice cold citric acid and saturated NaHCO3 solution. The organic layer is dried over MgSO4, filtered and evaporated to yield 3-carboethoxyacetyl-4-pyrrolidino-N-methoxycarbonyl-2,5 dihydropyrrole as an oil; NMR (CDCl3) 4.44 (s), 4.37 (s), 4.17 (q) 3,73 (s), 3,42 (m), 3.32 (s), 1.90 (m) and 1.26 (t).

reactant | Triethylamine | 28 ml | C(C)N(CC)CC | C6H15N
reactant | 3-pyrrolidino-N-methoxycarbonyl-2,5-dihydropyrrole | 0.2 moles, 39.3 g | N1(CCCC1)C=1CN(CC1)C(=O)OC | C10H16N2O2
reactant | ethyl malonyl chloride | 25.6 ml | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | ether | 850 ml | CCOCC | C4H10O
reactant | ether | 850 ml | CCOCC | C4H10O
catalyst | 4-dimethylaminopyridine | 2,4 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-carboethoxyacetyl-4-pyrrolidino-N-methoxycarbonyl-2,5 dihydropyrrole | C(=O)(OCC)CC(=O)C=1CN(CC1N1CCCC1)C(=O)OC | C15H22N2O5
